state test
* transient simulation only
* 0 <= astate_no <= 3 
* out delayed by astate_no accepted time steps
* current or voltage in- and outputs


Iin iin imeas pulse (1 3 0 2u 2u 198u 400u)
Vmeas imeas 0 0 
astate3 %i(iin) %i(iout) newstate3
.model newstate3 astate(astate_no=3)
R3 iout 0 0.9

.control
tran 100n 1m
set xbrushwidth=2
plot i(Vmeas) v(iout)
.endc

.end
